US06767912B2
Preparation of 3-(1-methylpyrrolidin-3-yl)-1H-indole
A solution of 3-(1-H-indol-3-yl)-1-methyl-pyrrolidine-2,5-dione (1.4 g) in tetrahydrofuran is treated with LiAlH4 (12 mL, 1.0 M solution, 2 equiv), stirred at 50° C. for 8 hr, cooled to room temperature, quenched with water and 15% aqueous NaOH and filtered. The filtrate is dried over MgSO4 and concentrated in vacuo to afford the title product as an oil, 1.1 g, identified by HPLC and mass spectral analyses.

reactant | 3-(1-H-indol-3-yl)-1-methyl-pyrrolidine-2,5-dione | 1.4 g | N1C=C(C2=CC=CC=C12)C1C(N(C(C1)=O)C)=O | C13H12N2O2
reactant | LiAlH4 | 1.0 M, 12 mL, 2 equiv | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(1-methylpyrrolidin-3-yl)-1H-indole | CN1CC(CC1)C1=CNC2=CC=CC=C12 | C13H16N2
